US06093818
After 1.0 g of 3, 3, 3-trifluoro-2-oxopropanal 1-(4-chloro-2-fluorophenylhydrazone) was dissolved in 10 mL of pyridine, 0.8 mL of ethyl cyanoacetate and 0.5 mL of piperidine were added to the pyridine solution, which was followed by stirring for 3 days at room temperature. After pouring into water, the reaction solution was extracted with ethyl acetate. After the organic layer was washed with aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate and concentrated, the residue was subjected to silica gel column chromatography (eluent: ethyl acetate/hexane =4/1), and thin-layer chromatography (eluent: ethyl acetate/hexane =5/1) to afford 0.28g of 2-(4-chloro-2-fluorophenyl)-4-cyano-5-trifluoromethylpyridazin-3-one (The present compound 1-1).

reactant | 3, 3, 3-trifluoro-2-oxopropanal 1-(4-chloro-2-fluorophenylhydrazone) | 1.0 g | ClC1=CC(=C(C=C1)NN=CC(C(F)(F)F)=O)F | C9H5ClF4N2O
reactant | ethyl cyanoacetate | 0.8 mL | C(#N)CC(=O)OCC | C5H7NO2
reactant | piperidine | 0.5 mL | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2-(4-chloro-2-fluorophenyl)-4-cyano-5-trifluoromethylpyridazin-3-one | 0.28g | ClC1=CC(=C(C=C1)N1N=CC(=C(C1=O)C#N)C(F)(F)F)F | C12H4ClF4N3O
